US07919468B2
N-Boc-Tyr(Bn)-Asn-Trp-NHPh:
compound SP314C2. Same procedure as above with Trp-NHPh (102.9 mg, 0.368 mmol), N-Boc-Tyr(Bn)-Asn-OH (178.9 mg, 0.368 mmol), EDC (78.2 mg, 0.41 mmol) and HOBt (55 mg, 0.41 mmol) in CH2Cl2/DMF (1.5 mL, 1/1). The crude residue was purified by flash column chromatography on silica gel (0-5% MeOH/CH2Cl2) to give an off-white solid (82.8 mg, 30%). 1H NMR (300 MHz, DMSO-d6) δ 1.28 (s, 9H, (CH3)3), 2.57-3.26 (m, 6H, CH2 Tyr, CH2 Trp, CH2 Asn), 4.11 (m, 1H, CHα), 4.58 (m, 2H, 2 CHα), 5.03 (broad s, 2H, CH2 (Bn)), 6.86-7.65 (m, 22H), 8.2 (m, 2H), 9.82 (s, 1H), 10.78 (s, 1H). 13C NMR (75 MHz, DMSO-d6) δ 27.3 (CH2 Trp), 28.1 ((CH3)3), 36.4, 37 (CH2 Tyr, CH2 Asn), 49.5, 54.5, 55.7 (CHα Tyr, Asn, Trp), 69 (CH2 (Bn)), 78.1 (C(CH3)3), 109.7, 110, 111.2, 114.2, 118.2, 119.6, 120.8, 123.4, 123.6, 127.2, 127.5, 127.7, 128.3, 128.5, 130.1, 136, 137.2, 138.7 (25 aromatic C), 155.2, 156.8 (Car-O, CO carbamate), 170, 171, 171.7, 171.9 (4 CO amide). Anal. Calcd. for C42H46N6O7: C, 67.54; H, 6.21; N, 11.25. Found: C, 67.14; H, 6.27; N, 11.27.

reactant | Trp-NHPh | 0.368 mmol, 102.9 mg | N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)NC1=CC=CC=C1 | C17H17N3O
reactant | N-Boc-Tyr(Bn)-Asn-OH | 0.368 mmol, 178.9 mg | N([C@@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)C(=O)N[C@@H](CC(N)=O)C(=O)O)C(=O)OC(C)(C)C | C25H31N3O7
reactant | EDC | 0.41 mmol, 78.2 mg
reactant | HOBt | 0.41 mmol, 55 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | CH2Cl2 DMF | 1.5 mL | C(Cl)Cl.CN(C)C=O
product | N-Boc-Tyr(Bn)-Asn-Trp-NHPh | 82.8 mg, 30% | N([C@@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)C(=O)N[C@@H](CC(N)=O)C(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)NC1=CC=CC=C1)C(=O)OC(C)(C)C | C42H46N6O7
